US06077853
4-Cyano-3-(2,2,2-trifluoro-ethoxy )-benzoic acid methyl ester
CF3SO2Cl (2.7 ml, 25.5 mmol) was added under argon atmosphere to diethylether (60 ml) and cooled to 0° C. CF3CH2OH (1.8 ml, 25.5 mmol) and Et3N (3 ml, 21.25 mmol) were then added dropwise. The reaction mixture was stirred at 0° C. for 0.5 hour. The reaction was cooled to -20° C. to maximize ppt. of Et3N.HCl. The mixture was filtered and washed with cold diethylether (1×20 mL). The filtrate was concentrated to approx. 1/2 the volume in vacuo, keeping the flask at room temp. to minimize the loss of trifluoromethanesulfonic acid 2,2,2-trifluoro-ethyl ester. The resulting solution was treated with 4-cyano-3-hydroxybenzoic acid methyl ester. Example 34, Step 3 (1.5 g, 8.5 mmol) in DMF (28 ml) containing Cs2CO3 (5 g, 21.25 mmol). The reaction mixture stirred for several hours. The mixture was filtered and washed with DMF (3×5 mL). The solvent was removed in vacuo and the residue was purified by flash chromatography (5% EtOAc/Hexane) to yield the desired product.

reactant | CF3SO2Cl | 25.5 mmol, 2.7 ml | C(F)(F)(F)S(=O)(=O)Cl | CClF3O2S
reactant | CF3CH2OH | 25.5 mmol, 1.8 ml | C(F)(F)(F)CO | C2H3F3O
reactant | Et3N | 21.25 mmol, 3 ml | CCN(CC)CC | C6H15N
reactant | Et3N.HCl | N(CC)(CC)CC.Cl
reactant | Cs2CO3 | 21.25 mmol, 5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | diethylether | 60 ml | C(C)OCC | C4H10O
solvent | DMF | 28 ml | CN(C)C=O | C3H7NO
product | 4-Cyano-3-(2,2,2-trifluoro-ethoxy )-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)C#N)OCC(F)(F)F)=O | C11H8F3NO3
